US09302989B2
N5-[2-(dimethylamino)ethyl]-N2-[4-(propylcarbamoyl)phenyl]-1,3-dihydro-2H-isoindole-2,5-dicarboxamide
The title compound was prepared as described in Example 1C, substituting N1,N1-dimethylethane-1,2-diamine for 3-phenylpropan-1-amine and 2-{[4-(propylcarbamoyl)phenyl]carbamoyl}isoindoline-5-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.28 (s, 1H), 8.70 (t, J=5.6 Hz, 1H), 8.62 (s, 1H), 8.26 (t, J=5.6 Hz, 1H), 7.86-7.74 (m, 4H), 7.68-7.61 (m, 2H), 7.49 (d, J=7.8 Hz, 1H), 4.84 (bs, 4H), 3.66-3.55 (m, 2H), 3.29-3.12 (m, 4H), 2.90-2.80 (m, 6H), 2.28-1.46 (m, 2H), 0.89 (t, J=7.4 Hz, 3H); MS (ESI(+)) m/e 438 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 2-{[4-(propylcarbamoyl)phenyl]carbamoyl}isoindoline-5-carboxylic acid | C(CC)NC(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)O | C20H21N3O4
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N5-[2-(dimethylamino)ethyl]-N2-[4-(propylcarbamoyl)phenyl]-1,3-dihydro-2H-isoindole-2,5-dicarboxamide | CN(CCNC(=O)C=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O)C | C24H31N5O3
